US08871361B2
Synthesis 2-(3-methoxy-5-methylphenyl)-4,4,5,5,-tetramethyl-1,3,2-dioxaborolane
To a sealable vessel was added 1-methoxy-3-methylbenzene (10.32 ml, 82 mmol), 4,4′-di-tert-butyl-2,2′-bipyridine (0.220 g, 0.819 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (15.59 g, 61.4 mmol), [Ir(cod)OMe]2 (0.271 g, 0.409 mmol), and 150 mL THF. The vessel was sealed and heated to 80° C. overnight. The solvent was evaporated and the residue was used as is in the next step. A yield of 15.23 g was estimated.

reactant | 1-methoxy-3-methylbenzene | 82 mmol, 10.32 ml | COC1=CC(=CC=C1)C | C8H10O
reactant | 4,4′-di-tert-butyl-2,2′-bipyridine | 0.819 mmol, 0.220 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 61.4 mmol, 15.59 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(3-methoxy-5-methylphenyl)-4,4,5,5,-tetramethyl-1,3,2-dioxaborolane | COC=1C=C(C=C(C1)C)B1OC(C(O1)(C)C)(C)C | C14H21BO3
